US06320050B1
A solution of 3-cyclopentyl-2-(4-nitro-phenyl)-propionic acid ethyl ester (14.1 g, 48.06 mmol) in tetrahydrofuran/water (300 mL, 3:1) was treated with lithium hydroxide (4.35 g, 103.67 mmol). The reaction was stirred at 25° C. for 21 h. The tetrahydrofuran was then removed in vacuo. The residue was diluted with water (75 mL) and extracted with ether (3×75 mL). The aqueous layer was acidified to pH=1 with a 3 N aqueous hydrochloric acid solution. The product was extracted into methylene chloride (3×75 mL), washed with a saturated aqueous sodium chloride solution (2×100 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo to give 3-cyclopentyl-2-(4-nitro-phenyl)-propionic acid (11.97 g, 93.6%) as a yellow solid: mp 119-125° C.; EI-HRMS m/e calcd for C14H17NO4 (M+) 263.1157, found 263.1162.

reactant | 3-cyclopentyl-2-(4-nitro-phenyl)-propionic acid ethyl ester | 48.06 mmol, 14.1 g | C(C)OC(C(CC1CCCC1)C1=CC=C(C=C1)[N+](=O)[O-])=O | C16H21NO4
reactant | lithium hydroxide | 103.67 mmol, 4.35 g | [OH-].[Li+]
solvent | tetrahydrofuran water | 300 mL | O1CCCC1.O
product | 3-cyclopentyl-2-(4-nitro-phenyl)-propionic acid | 11.97 g, 93.6% | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)[N+](=O)[O-] | C14H17NO4
